US06265575B1
Part A. 1-[2-(2-Benzyloxymethyl-4-bromophenoxy)ethyl]pyrrolidine
To a solution containing (1.00 g, 3.33 mmol) 1-[2-(2-hydroxymethyl-4-bromophenoxy)ethyl]pyrrolidine (Example 205, Part A) in 65 mL of anhydrous DMF was added 173 mg of NaH (60% dispersion in mineral spirits). The dropwise of addition of (0.40 mL, 3.33 mmol) benzyl bromide and (12.0 mg, 0.0333 mmol) of tetrabutylammonium iodide followed. The reaction was stirred at room temperature, for 1.5 h. The reaction was quenched by the addition of 100 mL of water. The mixture was extracted with EtOAc (3×500 mL). The combined organic layers were washed with brine (1×300 mL) and dried over MgSO4 and concentrated under reduced pressure and azeotroped with xylenes to remove residual DMF. Purification by flash chromatography (silica gel, 3.5% to 5.5% [10% conc NH4OH in MeOH]/CH2Cl2) afforded 660 mg (1.69 mmol, 51%) of a yellow oil.

reactant | 1-[2-(2-hydroxymethyl-4-bromophenoxy)ethyl]pyrrolidine | 3.33 mmol, 1.00 g | OCC1=C(OCCN2CCCC2)C=CC(=C1)Br | C13H18BrNO2
reactant | NaH | 173 mg | [H-].[Na+]
reactant | benzyl bromide | 3.33 mmol, 0.40 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.0333 mmol, 12.0 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-[2-(2-Benzyloxymethyl-4-bromophenoxy)ethyl]pyrrolidine | 1.69 mmol, 660 mg, 51% | C(C1=CC=CC=C1)OCC1=C(OCCN2CCCC2)C=CC(=C1)Br | C20H24BrNO2
